US05567849
Borane bis(2-methoxyethyl) sulfide (5.0 ml, 30 mmol) was dissolved in dichloromethane (30 ml) and 1-octene (10.10 g, 90 mmol) was added dropwise with cooling to keep the temperature at 20°-25° C. The reaction was complete in 5 min as indicated by 11B NMR. The solution was vigorously stirred with water (10×20 ml), dried over magnesium sulfate and the solvent was removed under vacuum. 1H NMR spectrum showed the sulfide present. Diethyl ether (20 ml) was added, followed by 5% sodium hypochlorite solution (40 ml) and the mixture was stirred keeping the temperature at 20°-25° C. After 1 h, the organic phase was separated, washed with water (3×20 ml) and dried over magnesium sulfate. Ether was removed under vacuum to give trioctylborane, 9.84 g, 94%, 11B NMR, δ, 86 ppm. 1H NMR did not indicate bis(2-methoxyethyl)sulfide. Tetrahydrofuran (30 ml) was added, followed by 3M sodium hydroxide (10 ml, 30 mmol) and 30% hydrogen peroxide (10 ml, 100 mmol). The mixture was stirred for 2 h at room temperature and then 1 hour at 40° C., saturated with potassium carbonate, the organic layer was separated and the aqueous layer was extracted with diethyl ether (2×30 ml). The extracts were combined with the THF solution, dried over magnesium sulfate and octanol was isolated by distillation, 10.60 g, 90.5%, bp 99°-100° C./20 mm Hg. GC analysis (Carbowax 20 M) showed 1-octanol (94%) and 2-octanol (6%).

reactant | Borane bis(2-methoxyethyl) sulfide | 30 mmol, 5.0 ml | COCCSCCOC.B
reactant | 1-octene | 90 mmol, 10.10 g | C=CCCCCCC | C8H16
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | trioctylborane | C(CCCCCCC)B(CCCCCCCC)CCCCCCCC | C24H51B
